US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-{4-[(dimethylamino)acetyl]morpholin-2-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine
A solution in THF (1 mL) containing 5-(2-benzyl-2H-indazol-6-yl)-7-morpholin-2-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (170 mg, 0.315 mmol), (1H-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate (209 mg, 0.47 mmol), N-methylmorpholine (111 mg, 1.1 mmol) and N,N-dimethylglycine hydrochloride (65.9 mg, 0.47 mmol) was stirred at rt for one hour. The reaction was diluted with 1 mL MeOH and treated with 25% sodium methoxide solution in MeOH (100 uL, 2 mmol). After an additional 30 min stirring at rt, the reaction was partitioned between EtOAc and 2N sodium carbonate solution. The organic phase was separated, dried with sodium sulfate and concentrated in vacuo to provide a dark orange solid. This material was taken up in 9.5 mL CH2Cl2 and 0.5 mL 7N NH3 in MeOH. The resulting solution was filtered through a silica plug (pretreated with NH3) and the volatiles removed in vacuo. Trituration of the resulting solid with ether provided 114 mg (71%) of the desired product as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ 8.55 (s, 1 H), 7.98 (d, 1 H, J=4 Hz)), 7.60 (s, 1 H), 7.50-7.60 (m, 2H), 7.14 (d, 1H, J=7 Hz), 6.80 (s, 1H), 7.27-7.41 (m, 5H), 5.65 (s, 2H), 4.89-5.06 (m, 1H), 4.18-4.52 (m, 2H), 3.86-4.04 (m, 2H), 3.21-3.65 (m, 2H), 3.30 (s, 2H), 2.19 (s, 3H), 2.15 (s, 3H); ES-MS m/z 511.3 [M+H]+, HPLC RT (min) 2.12 min.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-morpholin-2-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.315 mmol, 170 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCCO2 | C24H23N7O
reactant | (1H-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate | 0.47 mmol, 209 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methylmorpholine | 1.1 mmol, 111 mg | CN1CCOCC1 | C5H11NO
reactant | N,N-dimethylglycine hydrochloride | 0.47 mmol, 65.9 mg | Cl.CN(CC(=O)O)C
reactant | sodium methoxide | C[O-].[Na+]
reactant | NH3 | 7N, 0.5 mL | N | H3N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
solvent | CH2Cl2 | 9.5 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 mmol, 100 uL | CO | CH4O
product | 5-(2-benzyl-2H-indazol-6-yl)-7-{4-[(dimethylamino)acetyl]morpholin-2-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine | 114 mg, 71% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN(CCO2)C(CN(C)C)=O | C28H30N8O2
